US04299834
8-(3,4-Dimethoxy-phenyl)-purine
An amount of 7.5 g of 4-amino-5-(3,4-dimethoxy-benzoylamino)-pyrimidine was refluxed in 100 ml of phosphorus oxychloride for six hours. After evaporation and pouring on water, the solution was neutralized by means of potassium carbonate. The solution was evaporated to dryness, and the residue was extracted with boiling ethanol. The alcoholic solution was evaporated, and the remaining product was purified over silicagel (eluate: methylene chloride/ethanol in a volume ratio of 19:1).

reactant | 4-amino-5-(3,4-dimethoxy-benzoylamino)-pyrimidine | 7.5 g | NC1=NC=NC=C1NC(C1=CC(=C(C=C1)OC)OC)=O | C13H14N4O3
solvent | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-(3,4-Dimethoxy-phenyl)-purine | COC=1C=C(C=CC1OC)C1=NC2=NC=NC=C2N1 | C13H12N4O2
